US05597826
7-(4-Chlorobenzoyloxy)-1-(4-methyl-1-piperazinyl)-naphthalene
The title product was obtained following the procedure of example 30 from 7-hydroxy-1-(4-methyl-1-piperazinyl)-naphthalene (0.065 g, 0.268 mmol) and 4-chlorobenzoyl chloride (0.035 mL, 0.275 mmol) in methylene chloride (1 mL) and saturated sodium bicarbonate (1 mL) with a second equivalent of 4-chlorobenzoyl chloride added after several hours of stirring at room temperature. The title product was obtained in a yield of 0.058 g (57%) after recrystallization from ether/hexane: mp 110°-111 ° C. Analysis calculated for C22H21ClN2O2 : C, 69.38; H, 5.56; N, 7.36. Found: C, 69.31; H, 5.61; N, 7.35.

reactant | 7-hydroxy-1-(4-methyl-1-piperazinyl)-naphthalene | 0.268 mmol, 0.065 g | OC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C15H18N2O
reactant | 4-chlorobenzoyl chloride | 0.275 mmol, 0.035 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | 1 mL | C([O-])(O)=O.[Na+]
product | 7-(4-Chlorobenzoyloxy)-1-(4-methyl-1-piperazinyl)-naphthalene | ClC1=CC=C(C(=O)OC2=CC=C3C=CC=C(C3=C2)N2CCN(CC2)C)C=C1 | C22H21ClN2O2
